US05576340
Methyl 3-chloro-4-(2-oxopropoxy)phenylacetate
Following a procedure similar to that described in Preparation 3, but using 20 g of methyl 3-chloro-4-hydroxyphenylacetate, 27 g of bromoacetone, 28 g of potassium carbonate and 300 ml of dimethylformamide, the title compound was obtained having an Rf=0.33 (thin layer chromatography over silica gel, using a 3:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | methyl 3-chloro-4-hydroxyphenylacetate | 20 g | ClC=1C=C(C=CC1O)CC(=O)OC | C9H9ClO3
reactant | bromoacetone | 27 g | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | 28 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Methyl 3-chloro-4-(2-oxopropoxy)phenylacetate | ClC=1C=C(C=CC1OCC(C)=O)CC(=O)OC | C12H13ClO4
